US04822805
A mixture of 2-(2-methoxy-4-chloro-5-nitrophenyl)-4-methyl-5-(3-pyridyl)imidazole (6.4 g), 1N-hydrochloric acid (37 ml) and 10% palladium on carbon (3 g) in methanol (100 ml) was subjected to catalytic reduction at ambient temperature under atmospheric pressure of hydrogen gas for 3 hours. The reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was dissolved in water and the solution was adjusted to pH 8.0 with 20% aqueous potassium carbonate. The resultant mixture was extracted with ethyl acetate and extract was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol (96:4 V/V). The fractions containing object compound were evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 2-(2-methoxy-4-chloro-5-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole (2.1 g).

reactant | 2-(2-methoxy-4-chloro-5-nitrophenyl)-4-methyl-5-(3-pyridyl)imidazole | 6.4 g | COC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])C=1NC(=C(N1)C)C=1C=NC=CC1 | C16H13ClN4O3
reactant | hydrochloric acid | 37 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 2-(2-methoxy-4-chloro-5-aminophenyl)-4-methyl-5-(3-pyridyl)imidazole | 2.1 g | COC1=C(C=C(C(=C1)Cl)N)C=1NC(=C(N1)C)C=1C=NC=CC1 | C16H15ClN4O
